US03954732
Acetone (20 ml) and thioacetic acid (0.12 g) were added to pH 6.7 phosphate buffer (20 ml). To a mixture was added 2,2,2-trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate (0.54 g) under stirring. After stirring for 5 hours at room temperature, the reaction mixture was post-treated in the similar manner as described in Example 6 to give oily 2,2,2-trichloroethyl 2-acetylthiomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate (0.173 g). Infrared Absorption Spectrum (CH Cl3) 3390, 1790, 1965, 1690 ~ 1685 cm-1.

reactant | thioacetic acid | 0.12 g | C(C)(=S)O | C2H4OS
reactant | phosphate | 20 ml, pH 6.7 | P(=O)([O-])([O-])[O-]
reactant | 2,2,2-trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate | 0.54 g | BrCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C18H18BrCl3N2O4S
solvent | Acetone | 20 ml | CC(=O)C | C3H6O
product | 2,2,2-trichloroethyl 2-acetylthiomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate | 0.173 g | C(C)(=O)SCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C20H21Cl3N2O5S2
